US07462624B2
Step A: 4-(Pentylamino)-1H-imidazole-5-carbothioamide
A mixture of 4-(pentylamino)-1H-imidazole-5-carbonitrile (25 g, 0.14 mol), sodium hydrogen sulfide dihydrate (26 g, 0.28 mol) and ammonium chloride (7.5 g, 0.14 mol) in methanol (400 mL) was stirred at room temperature overnight. The conversion was about 60% according to analytical LCMS. The mixture was then stirred at 50° C. for 3 hours. The methanol was removed and the residue was diluted with water and EtOAc. The organic layer was washed with water and brine respectively, dried and concentrated to yield the crude product (30.0 g), which was used for next step without further purification. LCMS calculated for C9H17N4S (M+H): 213.1; found: 213.1.

reactant | 4-(pentylamino)-1H-imidazole-5-carbonitrile | 0.14 mol, 25 g | C(CCCC)NC=1N=CNC1C#N | C9H14N4
reactant | sodium hydrogen sulfide dihydrate | 0.28 mol, 26 g | O.O.S.[Na]
reactant | ammonium chloride | 0.14 mol, 7.5 g | [Cl-].[NH4+]
solvent | methanol | 400 mL | CO | CH4O
product | 4-(Pentylamino)-1H-imidazole-5-carbothioamide | 30.0 g | C(CCCC)NC=1N=CNC1C(N)=S | C9H16N4S
